data/oMe_Silver.jsonl
{"reaction_id": "NR-146_1-c2ccccc2_2-c2ccc(cc2)c3ccccc3_3-C(C)(C)C","name": "Mitsunobu Reaction","level": "medium","reactants_smiles": ["[C@@H](O)(c2ccccc2)(c2ccc(cc2)c3ccccc3)","O=C(O)C(C)(C)C","c1ccccc1P(c2ccccc2)c3ccccc3","CCOC(=O)N=NC(=O)OCC"],"products_smiles": ["[C@H](OC(=O)C(C)(C)C)(c2ccccc2)(c2ccc(cc2)c3ccccc3)"],"conditions": "Ph3P, CCOC(=O)N=NC(=O)OCC","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1[P+](c2ccccc2)(c3ccccc3)N([N-]C(=O)OCC)C(=O)OCC","rationale": "Triphenylphosphine attacks the electrophilic azo carbonyl due to its strong nucleophilicity, forming a phosphonium intermediate stabilized by resonance with adjacent carbonyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[P+](c2ccccc2)(c3ccccc3)N(NC(=O)OCC)C(=O)OCC.[O-]C(=O)C(C)(C)C","rationale": "The acidic proton of C(C)(C)C–COOH is abstracted by the basic intermediate, driven by the stability of the resulting carboxylate anion and the favorable formation of a neutral phosphonium species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C@@H](O[P+](c1ccccc1)(c2ccccc2)c3ccccc3)(c2ccccc2)(c2ccc(cc2)c3ccccc3).[O-]C(=O)C(C)(C)C","rationale": "The alcohol oxygen attacks the electrophilic phosphonium center, forming an oxyphosphonium intermediate; this activates the adjacent carbon for nucleophilic substitution by making it a better leaving group."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C@H](OC(=O)C(C)(C)C)(c2ccccc2)(c2ccc(cc2)c3ccccc3)","rationale": "The carboxylate anion attacks the activated carbon in an SN2 fashion, favored by the excellent leaving ability of triphenylphosphine oxide and the reaction’s stereospecific inversion requirement."}],"description": "In the Mitsunobu reaction, triphenylphosphine activates the azo reagent to form a reactive intermediate, which deprotonates the acid to generate a nucleophilic anion. This anion then displaces the alcohol via inversion, yielding the ester product under mild, stereospecific conditions."}
{"reaction_id": "NR-334_1-C_2-CC_3-CC_4-C","level": "medium","name": "Ritter Reaction","reactants_smiles": ["N#CC","OC(CC)(CC)C"],"products_smiles": ["C(=O)(NC(CC)(CC)C)C"],"conditions": "H2SO4, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(CC)(CC)C","step_weight": 0,"rationale": "Protonation of the alcohol oxygen increases its leaving group ability by converting OH into water, a much better leaving group under acidic conditions."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C+](CC)(CC)C","step_weight": 0,"rationale": "Loss of water generates a carbocation stabilized by adjacent alkyl groups through hyperconjugation and inductive effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(#[N+]C(CC)(CC)C)C","step_weight": 0,"rationale": "The nitrile nitrogen, being nucleophilic, attacks the carbocation, forming a nitrilium ion stabilized by resonance with the triple bond."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=NC(CC)(CC)C)([OH2+])C","step_weight": 0,"rationale": "Water, activated by the acidic medium, adds to the electrophilic carbon of the nitrilium ion, forming a protonated imidate intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=NC(CC)(CC)C)(O)C","step_weight": 0,"rationale": "Deprotonation of the protonated imidate oxygen restores neutrality, yielding the neutral imidic acid form."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC(CC)(CC)C)C","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the imidic acid to the more thermodynamically stable amide via proton transfers."}],"description": "Under strong acid, the alcohol is protonated and loses water to form a stable carbocation. The nitrile attacks, forming an iminium intermediate, which is then hydrated and tautomerizes to the amide. Acid catalysis drives each step by stabilizing intermediates and activating electrophiles."}
